US07956145B2
There were put 10 g of fluorene manufactured by Wako Pure Chemical Industries, Ltd. and 10.1 g of potassium tert-butoxide manufactured by Aldrich Chemical Company in a 200 mL-round bottom flask, and 120 mL of dry N,N-dimethylformaide manufactured by Wako Pure Chemical Industries, Ltd. were added thereto. While stirring the resultant mixture in a nitrogen atmosphere at 50° C., 5.86 mL of allyl chloride manufactured by Kanto Chemical Co., Inc. were added dropwise thereto over 2 hours. The mixture was stirred at 50° C. for 8 hours. Additional 10.1 g of potassium tert-butoxide manufactured by Aldrich Chemical Company were added thereto, and then additional 5.86 mL of allyl chloride manufactured by Kanto Chemical Co., Inc. were added dropwise thereto over 2 hours. The mixture was stirred overnight at 50° C. The obtained reaction mixture was added to 900 mL of water, and then 300 mL of hexane were added thereto. The organic layer thereof was subjected to extraction with ether three times, and the extract was washed with water four times. The washed extract was further washed with diluted hydrochloric acid, and then with water in this order. The further washed extract was dried over anhydrous magnesium sulfate manufactured by Nacalai Tesque, Inc. The dried extract was subjected to removal of the solvent by distillation, and the resultant liquid was distilled in vacuo, thereby obtaining 12.8 g 9,9-diallylfluorene at 90° C. under 4 mmHg as yellow oil.

reactant | fluorene | 10 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | potassium tert-butoxide | 10.1 g | CC(C)([O-])C.[K+]
reactant | allyl chloride | 5.86 mL | C(C=C)Cl | C3H5Cl
reactant | potassium tert-butoxide | 10.1 g | CC(C)([O-])C.[K+]
reactant | allyl chloride | 5.86 mL | C(C=C)Cl | C3H5Cl
reactant | water | 900 mL | O | H2O
solvent | hexane | 300 mL | CCCCCC | C6H14
product | 9,9-diallylfluorene | 12.8 g | C(C=C)C1(C2=CC=CC=C2C=2C=CC=CC12)CC=C | C19H18
